US08530470B2
Sodium hydroxide (2N in water) (0.293 mL, 0.59 mmol) was added to a stirred suspension of methyl 2-((R)-2-methylmorpholino)-4-oxo-8-(1-phenylpyrrolidin-2-yl)-4H-chromene-6-carboxylate (105 mg, 0.23 mmol) in MeOH (2 mL)/water (2 mL) as described in example 3.00 to afford 2-((R)-2-methylmorpholino)-4-oxo-8-(1-phenylpyrrolidin-2-yl)-4H-chromene-6-carboxylic acid (87 mg, 86%) which was used without further purification. Mass Spectrum: m/z [M+H]+=435.

reactant | Sodium hydroxide | 0.59 mmol, 2N, 0.293 mL | [OH-].[Na+]
reactant | methyl 2-((R)-2-methylmorpholino)-4-oxo-8-(1-phenylpyrrolidin-2-yl)-4H-chromene-6-carboxylate | 0.23 mmol, 105 mg | C[C@H]1OCCN(C1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)C1N(CCC1)C1=CC=CC=C1 | C26H28N2O5
reactant | water | 2 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | 2-((R)-2-methylmorpholino)-4-oxo-8-(1-phenylpyrrolidin-2-yl)-4H-chromene-6-carboxylic acid | 87 mg, 86% | C[C@H]1OCCN(C1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)O)C1N(CCC1)C1=CC=CC=C1 | C25H26N2O5
